US06423713B1
A solution of 3-(4-chlorophenyl)-4-(4-pyridyl)-5-(4-piperzinyl)pyrazole (200 mg; 0.54 mmol; prepared as set forth in Example A-169), succinic anhydride (60 mg, 0.55 mmol) and 4-dimethylaminopyridine (5 mg) was stirred at room temperature for 24 hours. The solvent was removed in vacuo and the residue treated with methanol and water (1:1). The resultant crystalline solid was filtered and air dried to give 170 mg (58%) of 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid, dihydrate, m. p. 281-283° C. (dec.). Anal. Calc'd. for C22H22ClN5O3.2H2O: C, 55.52; H, 5.51; N, 14.72. Found: C, 55.11; H, 5.20; N, 14.44.

reactant | 3-(4-chlorophenyl)-4-(4-pyridyl)-5-(4-piperzinyl)pyrazole | ClC1=CC=C(C=C1)C1=NNC(=C1C1=CC=NC=C1)N1CCNCC1 | C18H18ClN5
reactant | succinic anhydride | 0.55 mmol, 60 mg | C1(CCC(=O)O1)=O | C4H4O3
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-γ-oxo-1-piperazinebutanoic acid, dihydrate | 170 mg, 58% | O.O.ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C(CCC(=O)O)=O)C1=CC=NC=C1 | InChI=1S/C22H22ClN5O3.2H2O/c23-17-3-1-16(2-4-17)21-20(15-7-9-24-10-8-15)22(26-25-21)28-13-11-27(12-14-28)18(29)5-6-19(30)31;;/h1-4,7-10H,5-6,11-14H2,(H,25,26)(H,30,31);2*1H2
